US07572809B2
Similar procedure as described in example 10 was used, starting from 2-(2-ethoxy-ethoxy)-ethanol and (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give {1-[2-(2-ethoxy-ethoxy)-ethoxy]-6-methoxy-isoquinolin-3-yl}-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 387(MH+).

reactant | 2-(2-ethoxy-ethoxy)-ethanol | C(C)OCCOCCO | C6H14O3
reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
product | {1-[2-(2-ethoxy-ethoxy)-ethoxy]-6-methoxy-isoquinolin-3-yl}-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)OCCOCCOC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C20H26N4O4
